US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-hydroxy-n-propyl)-amide-hydrochloride
Prepared from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-benzyloxy-n-propyl)-amide-hydrochloride by hydrogenation over palladium/charcoal (10%) at 5 bar hydrogen pressure and at ambient temperature. Yield: 61% of theory, C26H28N6O2 (456.6) Rf value: 0.70 (Reversed Phase silica gel RP-18; methanol/5% aqueous saline solution=9:1) ##EQU122##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-benzyloxy-n-propyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCCOCC1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
catalyst | palladium/charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-hydroxy-n-propyl)-amide-hydrochloride | Yield: 61% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCCO | InChI=1S/C26H28N6O2.ClH/c1-31-23-13-10-19(26(34)32(14-5-15-33)21-6-3-2-4-7-21)16-22(23)30-24(31)17-29-20-11-8-18(9-12-20)25(27)28;/h2-4,6-13,16,29,33H,5,14-15,17H2,1H3,(H3,27,28);1H
